US05459131
3-methyl-gamma-oxo-α-(phenylmethyl)-benzenebutanoic acid.
3-(methylaminosulfonyl)gamma-oxo-α-(phenylmethyl)benzenebutanoic acid, mp. 130°-133° C. gamma-oxo-alpha-(phenylmethyl)-2-benzofuranbutanoic acid, mp. 158°-161° C.

reactant | 3-(methylaminosulfonyl)gamma-oxo-α-(phenylmethyl)benzenebutanoic acid | CNS(=O)(=O)C=1C=C(C=CC1)C(CC(C(=O)O)CC1=CC=CC=C1)=O | C18H19NO5S
reactant | gamma-oxo-alpha-(phenylmethyl)-2-benzofuranbutanoic acid | O=C(CC(C(=O)O)CC1=CC=CC=C1)C=1OC=C2C1C=CC=C2 | C19H16O4
product | 3-methyl-gamma-oxo-α-(phenylmethyl)-benzenebutanoic acid | CC=1C=C(C=CC1)C(CC(C(=O)O)CC1=CC=CC=C1)=O | C18H18O3
